US07572820B2
4-Chloro-1-{[5-(2,6-dichloro-4-pyridinyl)-1,2,4-oxadiazol-3-yl]methyl}-2-propyl-1H-indole-5-carbonitrile
Synthesized as described for Examples 32A-32B using 2-(4-chloro-5-cyano-2-propyl-1H-indol-1-yl)-N-hydroxyethanimidamide (0.030 g, 0.1 mmol) in anhydrous THF (5 mL) with 2,6-dichloro-4-pyridinecarbonyl chloride (0.021 g, 0.1 mmol) and TEA (0.012 g, 0.12 mmol) and heated at 120° C. for 1 h in the microwave: 1H NMR (400 MHz, DMSO-d6) δ 8.06 (s, 2H), 7.96 (s, 1H), 7.76 (d, J=8.5 Hz, 1H), 7.58 (d, J=8.7 Hz, 1H), 5.87 (s, 2H), 2.91 (t, 2H), 1.67-1.54 (m, 2H), 0.92 (t, 3H); MS (ES) m/z 447 (M+1).

reactant | 2-(4-chloro-5-cyano-2-propyl-1H-indol-1-yl)-N-hydroxyethanimidamide | 0.1 mmol, 0.030 g | ClC1=C2C=C(N(C2=CC=C1C#N)CC(NO)=N)CCC | C14H15ClN4O
reactant | 2,6-dichloro-4-pyridinecarbonyl chloride | 0.1 mmol, 0.021 g | ClC1=NC(=CC(=C1)C(=O)Cl)Cl | C6H2Cl3NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-Chloro-1-{[5-(2,6-dichloro-4-pyridinyl)-1,2,4-oxadiazol-3-yl]methyl}-2-propyl-1H-indole-5-carbonitrile | ClC1=C2C=C(N(C2=CC=C1C#N)CC1=NOC(=N1)C1=CC(=NC(=C1)Cl)Cl)CCC | C20H14Cl3N5O
